* Red Pitaya Analog Input: low voltage (high gain) range
* Michael Hirsch, Ph.D.
* https://wiki.redpitaya.com/tmp/Fast_analog_inputs_sch.png
* https://forum.redpitaya.com/viewtopic.php?f=9&t=468

Cb   Vin 1  10p

C200 1  Vout 6.8p
C3   1  Vout 10p
R3   1  Vout 499k
R5   1  0    499k
C206 Vout 0    10p

RL Vout 0 500K

*------- test source ------------
* source resistance
Rs Vs Vin 150

* transient
* V_V1 Vs 0 sin(0.0 1 50MEG 0 0) 

* AC freq sweep
V_V1 Vs 0 dc 0. ac 1. sin(0. 1. 100MEG 0 0) 


*V_V1 Vin 0 pulse(-0.5 0.5 0 0.1u 0.1u 4.8u 10u)

*--------- freq sweep -------------------------------------
.print ac v(Vin) v(Vout)
.AC DEC 200 50 50MEG  > LV.out 

*--------- transient ----------------
* .print selects quantities to output
.print tran v(Vin) v(Vout)
*gnucap
*.tran 0.1u 10u 0 trace all > LV.out 

*ngspice
*.tran 1u 100u 0 

.END
